US07598376B2
Preparation of 4,5-diacetyl-[1,4,5]-oxadiazepine
A mixture of 35 g of diacetylhydrazine (0.3 mol), 124.4 g or 165.8 g of ground potassium carbonate (0.9 or 1.2 mol, respectively), 85.8 g of 2,2-dichlorodiethyl ether (0.6 mol) and 560 ml of solvent (see Table 2) is heated to 125° C. and maintained at 125-130° C. or 80-90° C. (in the case of DMSO) for 5 hours. The mixture is then cooled to 20° C. and filtered, and the filtration residue is washed with the solvent. The yield is given by the content of title compound in the combined filtrate.

reactant | diacetylhydrazine | 0.3 mol, 35 g | C(C)(=O)NNC(C)=O | C4H8N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2-dichlorodiethyl ether | 0.6 mol, 85.8 g | CCOCC(Cl)Cl | C4H8Cl2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 4,5-diacetyl-[1,4,5]-oxadiazepine | C(C)(=O)N1C=COC=CN1C(C)=O | C8H10N2O3
